US07964643B2
4-Bromo-3-fluorophenyl-sulfonic acid-(4-hydroxybutyl)-amide
Using a method analogous to that described in Example 1, 4-bromo-3-fluorophenyl sulphonyl chloride was reacted with 4-aminobutanol, and the title compound obtained as a white solid after recrystallisation from ether/petrol. δC (CDCl3, 62.9 MHz): 26.5, 29.4, 43.2, 62.2, 114.5 (d, J 20.5), 115.3 (d, J 25.4), 123.7 (d, 3.9), 134.5, 141.2 (d, 5.9) and 158.9 (d, J 252).

reactant | 4-bromo-3-fluorophenyl sulphonyl chloride | BrC1=C(C=C(C=C1)S(=O)(=O)Cl)F | C6H3BrClFO2S
reactant | 4-aminobutanol | NCCCCO | C4H11NO
product | 4-Bromo-3-fluorophenyl-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=CC(=C(C=C1)Br)F | C10H13BrFNO3S
